US07176323B2
3-(5,5-Dimethyl-1,3-dioxan-2-yl)-1-(3,4-dimethylphenyl)butan-1-one
2-Bromo-1-(3,4-dimethylphenyl)ethan-1-one (220 g) and N,N-bis(2-methylpropyl)-1-propenylamine (249 g) were added to 990 ml of dimethylformamide under an atmosphere of nitrogen and the mixture was stirred at around 50° C. for 2 hours. After cooling the reaction mixture to 10° C., 990 ml of water, 170 g of neopentyl glycol and 173 g of concentrated sulfuric acid were added successively to the reaction mixture and the mixture was stirred at around 60° C. for 2 hours. After cooling the reaction mixture to the room temperature, crystals precipitated. These crystals were isolated by filtration to give 262 g (yield 83%) of the title compound as white crystals.

reactant | 2-Bromo-1-(3,4-dimethylphenyl)ethan-1-one | 220 g | BrCC(=O)C1=CC(=C(C=C1)C)C | C10H11BrO
reactant | N,N-bis(2-methylpropyl)-1-propenylamine | 249 g | CC(CN(CC(C)C)C=CC)C | C11H23N
reactant | neopentyl glycol | 170 g | OCC(C)(CO)C | C5H12O2
reactant | sulfuric acid | 173 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 990 ml | O | H2O
solvent | dimethylformamide | 990 ml | CN(C=O)C | C3H7NO
product | 3-(5,5-Dimethyl-1,3-dioxan-2-yl)-1-(3,4-dimethylphenyl)butan-1-one | 262 g, yield 83% | CC1(COC(OC1)C(CC(=O)C1=CC(=C(C=C1)C)C)C)C | C18H26O3
